US05223261
Part C. Preparation of Isooctyl Acrylate: Acrylamide: Vinyl Acetate (75:5:20) Copolymer
The procedures above were repeated this time employing 120.0 g. isooctyl acrylate, 8.0 g. acrylamide, 32.0 g. vinyl acetate, 0.32 g. benzoyl peroxide, 216.0 g. ethyl acetate and 24.0 g. methyl alcohol. The resulting polymer was diluted with the ethyl acetate/methyl alcohol mixture to 21.52% solids. The adhesive polymer had a measured inherent viscosity of 1.40 dl/g in ethyl acetate at a concentration of 0.15 g/dl. Its Brookfield viscosity was 2,300 centipoise.

reactant | isooctyl acrylate | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ethyl acetate methyl alcohol | C(C)(=O)OCC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl alcohol | CO | CH4O
product | Isooctyl Acrylate Acrylamide Vinyl Acetate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)N.C(C)(=O)OC=C | InChI=1S/C11H20O2.C4H6O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-3-6-4(2)5;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;3H,1H2,2H3;2H,1H2,(H2,4,5)
